US06110962
(S)-(+)-α,3-Dihydroxy-1-oxo-2-isoindolinebutyric acid, methyl ester
Sodium borohydride (0.474 g, 12.54 mmol) was added portionwise to a -20° C., stirred solution of (s)-(+)-α-hydroxy-1,3-dioxo-2-isoindolinebutyric acid methyl ester (3.0 g, 11.4 mmol) in THF/water (30/1.38 mL) for 6 hours. Upon cooling to room temperature, the reaction mixture was carefully quenched and acidified with 10% aqueous HCl. Aqueous mixture was extracted with ethyl acetate (300 mL). The ethyl acetate extract was washed with water and brine. Silica gel (15 mL) was added. Solvents were removed and the silica adsorbate was flash chromatographed (eluent 95: 5 petroleum ether: dichloromethane) to provide the title compound as an oil (0.96 g, 32%): MS (EI): [M+], 265.

reactant | Sodium borohydride | 12.54 mmol, 0.474 g | [BH4-].[Na+]
reactant | (s)-(+)-α-hydroxy-1,3-dioxo-2-isoindolinebutyric acid methyl ester | 11.4 mmol, 3.0 g | COC([C@H](CCN1C(C2=CC=CC=C2C1=O)=O)O)=O | C13H13NO5
solvent | THF water | 1.38 mL | C1CCOC1.O
product | (S)-(+)-α,3-Dihydroxy-1-oxo-2-isoindolinebutyric acid, methyl ester | 0.96 g, 32% | OC(C(=O)OC)CCN1C(C2=CC=CC=C2[C@@H]1O)=O | C13H15NO5
